US03948936
Preparation of 1,2-Dimethyl-3-(m-fluorophenyl)-5-phenyl-pyrazolidine hydriodide
Sodium borohydride (76 g, 0.02 mole) is added to a slurry of 1,2-dimethyl-3-(m-fluorophenyl)-5-phenyl-pyrazolinium iodide (4 g, 0.01 mole) in isopropanol (125 ml). After becoming homogeneous, the reaction mixture is stirred for 24 hours. Water (10 ml) is then slowly added. Isopropanol is removed on a rotary evaporator and resultant residue is slurried in water (50 ml) and extracted with chloroform. Evaporation of the organic layer yields an oil, which is slurried in water. Aqueous hydriodic acid (5 ml, 46-50%) is next added. After stirring for one hour, resulting solid is filtered and dried to give 3.3 g, 83%; melting point 187°-189°C.

reactant | Sodium borohydride | 0.02 mole, 76 g | [BH4-].[Na+]
reactant | 1,2-dimethyl-3-(m-fluorophenyl)-5-phenyl-pyrazolinium iodide | 0.01 mole, 4 g | [I-].C[NH+]1N(C(=CC1C1=CC=CC=C1)C1=CC(=CC=C1)F)C
reactant | hydriodic acid | 5 ml | I | HI
solvent | isopropanol | 125 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | Water | 10 ml | O | H2O
product | 1,2-Dimethyl-3-(m-fluorophenyl)-5-phenyl-pyrazolidine hydriodide | I.CN1N(C(CC1C1=CC=CC=C1)C1=CC(=CC=C1)F)C | InChI=1S/C17H19FN2.HI/c1-19-16(13-7-4-3-5-8-13)12-17(20(19)2)14-9-6-10-15(18)11-14;/h3-11,16-17H,12H2,1-2H3;1H
